US04963575
A mixture of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (8.0 g) and acetonylacetone (4.34 g) in toluene (250 ml) containing p-toluenesulphonic acid (0.5 g) was heated under reflux with a Dean and Stark take-off head fitted to the flask. After 311/2 hours evaporation in vacuo gave a dark solid, which was dissolved in dichloromethane (100 ml) and washed in turn with water (100 ml) and saturated sodium carbonate solution (50 ml). The organic layer was dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a dark semisolid. Purification by dry column chromatography (Kieselgel 60G) eluting with dichloromethane/hexane (1:3) gave 3-cyano-1-(2,6-dichloro-4-trifluoromethyl- phenyl)-5-(2,5-dimethylpyrrol-1-yl)-4-trifluoromethylthiopyrazole as a white solid (5.9 g), m.p. 142.3°-144° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 8.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | acetonylacetone | 4.34 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethyl- phenyl)-5-(2,5-dimethylpyrrol-1-yl)-4-trifluoromethylthiopyrazole | 5.9 g | C(#N)C1=NN(C(=C1SC(F)(F)F)N1C(=CC=C1C)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C18H10Cl2F6N4S
